US06969710B2
N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-4-methylbenzenesulfonamide hydrochloride (PHA 516123A)
tert-Butyl 4-{4-{[(4-methylphenyl)sulfonyl]amino}-3-[(methylsulfonyl)amino]phenyl}-1,4-diazepane-1-carboxylate (0.5 g) was dissolved in methanol (15 mL). A solution of HCl in ethyl acetate (1N, 25 mL) was added and the mixture stirred for 2 hours. Ether (200 mL) was added and the mixture stirred for 3 hours to allow full precipitation. The product was collected by filtration, washed with ether and dried. Yield 0.43 g (98%) 1H NMR (400 MHz, DMSO-d6) δ 2.03 (m, 2 H), 2.36 (s, 3 H), 2.9 (s, 3 H), 3.02-3.09 (br m, 2 H), 3.11-3.19 (br m, 2 H), 3.41 (br t, J=7.08 Hz, 2 H), 3.63 (br m, 2 H), 6.46 (d ab, J=2.8 Hz, 8.8 Hz, 1 H), 6.62 (ab, J=8.8 Hz, 1 H), 6.71 (d, J=2.8 Hz, 1 H), 7.36 (ab, J=8.3 Hz, 2 H), 7.58 (ab, J=8.3 Hz, 2 H), 8.39 (s, 1 H), 9.2 (br, 2 H), 9.8 (s, 1 H); MS (ESI+) for C19H27N4O4S2 m/z 439.148 (M+H)+ (Calculated 439.1474).

reactant | tert-Butyl 4-{4-{[(4-methylphenyl)sulfonyl]amino}-3-[(methylsulfonyl)amino]phenyl}-1,4-diazepane-1-carboxylate | 0.5 g | CC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)NS(=O)(=O)C | C24H34N4O6S2
reactant | HCl | Cl | ClH
reactant | Ether | 200 mL | CCOCC | C4H10O
solvent | methanol | 15 mL | CO | CH4O
solvent | ethyl acetate | 1N, 25 mL | C(C)(=O)OCC | C4H8O2
product | N-{4-(1,4-diazepan-1-yl)-2-[(methylsulfonyl)amino]phenyl}-4-methylbenzenesulfonamide hydrochloride | Cl.N1(CCNCCC1)C1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C)NS(=O)(=O)C | InChI=1S/C19H26N4O4S2.ClH/c1-15-4-7-17(8-5-15)29(26,27)22-18-9-6-16(14-19(18)21-28(2,24)25)23-12-3-10-20-11-13-23;/h4-9,14,20-22H,3,10-13H2,1-2H3;1H
